US07790724B2
f) 5-Cyano-1H-imidazole-2-carboxylic acid [2-(dimethyl-cyclohex-1-enyl)-6-(1-hydroxy-1-methyl-ethyl)-pyridin-3-yl]-amide
To a solution of 5-cyano-1H-imidazole-2-carboxylic acid [6-acetyl-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-3-yl]-amide (as prepared in the previous step, 6 mg, 0.016 mmol) in THF (1 mL) was added MeMgBr (3 M in THF, 41 μL, 0.072 mmol). After 20 min another 2.5 equivalents of MeMgBr was added and the reaction was allowed to warm to room temperature and quenched with saturated aqueous NaHCO3 (2 mL). The slurry was filtered through a 5-g Sep-Pak SPE column and concentrated in vacuo. The crude product was purified by silica gel chromatography (250-mg, 3-mL Supelco Si tube, gradient CHCl3-2% CHCl3-MeOH) to afford 2.6 mg (43%) of the title compound as a white solid. 1H-NMR (CD3OD; 400 MHz): δ 8.44 (d, 1H, J=8.5 Hz), 7.90 (s, 1H), 7.42 (d, 1H, J=8.5 Hz), 5.86 (s, 1H), 2.39-2.37 (m, 2H), 1.99-1.94 (m, 2H), 1.51 (t, 1H, J=6.3 Hz), 1.43 (s, 6H), 0.99 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C21H25N5O2, 380.2 (M+H), found 380.1.

reactant | 5-cyano-1H-imidazole-2-carboxylic acid [6-acetyl-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-3-yl]-amide | C(C)(=O)C1=CC=C(C(=N1)C1=CCC(CC1)(C)C)NC(=O)C=1NC(=CN1)C#N | C20H21N5O2
reactant | MeMgBr | 0.072 mmol, 3 M, 41 μL | C[Mg+].[Br-]
reactant | MeMgBr | 2.5 equivalents | C[Mg+].[Br-]
reactant | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-Cyano-1H-imidazole-2-carboxylic acid [2-(dimethyl-cyclohex-1-enyl)-6-(1-hydroxy-1-methyl-ethyl)-pyridin-3-yl]-amide | 2.6 mg, 43% | CC1C(=C(CCC1)C1=NC(=CC=C1NC(=O)C=1NC(=CN1)C#N)C(C)(C)O)C | C21H25N5O2
